* source DISTORTION_ORCAD_SIMULATION
V_V7         INPUT 0  AC 1
+SIN 3 0.5 2k 0 0 0
X_R44         N29369 N29209 N29363 POT PARAMS: SET={Tone} VALUE=20k
V_V6         VCC/2 0 2.5Vdc
R_R4         VCC/2 N29887  10k TC=0,0 
R_R43         N29369 N29383  1k TC=0,0 
X_U9         N29887 N29099 VCC 0 OUTCLIPPAMP RC4558/301/TI
V_V4         VCC 0 5Vdc
C_C6         N29383 N295991  1u  TC=0,0 
R_R42         0 N29203  220 TC=0,0 
R_R45         VCC/2 N29363  10k TC=0,0 
C_C1         N29099 OUTCLIPPAMP  51p  TC=0,0 
R_R3         0 N29665  4.7k TC=0,0 
D_D4         N29099 OUTCLIPPAMP D1N4148_1 
X_U8         N29363 N29369 VCC 0 N29383 RC4558/301/TI
C_C11         N29209 N29203  0.22u  TC=0,0 
R_R47         OUT N295991  1k TC=0,0 
C_C7         INPUT N29887  1u  TC=0,0 
R_R1         N29099 N29107  500 TC=0,0 
X_R41         OUTCLIPPAMP OUTCLIPPAMP N29107 POT PARAMS: SET={Dist} VALUE=500k
C_C10         0 N29363  0.22u  TC=0,0 
D_D3         OUTCLIPPAMP N29099 D1N4148_1 
C_C2         N29665 N29099  0.047u  TC=0,0 
R_R46         N29363 OUTCLIPPAMP  1k TC=0,0 
R_R48         0 OUT  100k TC=0,0 
.PARAM  dist=0.0001  tone=0.9 level=0.1 distortion=0.5
