* source OUTADAPTATION
R_R2         0 N05376  10k TC=0,0 
X_U1         N05882 N05168 VCC 0 N10853 MCP6001
X_R11         N05272 N05168 N05168 POT PARAMS: SET={Volume} VALUE=500k
R_R8         N05646 OUT  100 TC=0,0 
C_C2         0 N05376  47u  TC=0,0 
R_R13         N05646 OUT  100 TC=0,0 
R_R6         N05566 VCC  3.9k TC=0,0 
R_R5         N05882 N05690  1k TC=0,0 
R_Headphone         0 OUT  50 TC=0,0 
C_C4         N05198 N05646  47u  TC=0,0 
C_C3         N05690 IN  0.1u  TC=0,0 
V_V1         IN 0  AC 1
+SIN 0 .45 2k 0 0 0
R_R1         N05376 VCC  10k TC=0,0 
R_R9         0 N05646  10k TC=0,0 
C_C1         0 VCC  47u  TC=0,0 
R_R7         0 N05928  3.9k TC=0,0 
V_V2         VCC 0 5Vdc
R_R3         N05690 N05376  10Meg TC=0,0 
R_R4         0 IN  22Meg TC=0,0 
R_R10         N07708 N05272  33k TC=0,0 
C_C5         0 N07708  4.7u  TC=0,0 
R_R12         N05168 N05198  56k TC=0,0 
C_C6         N05168 N05198  150p  TC=0,0 
Q_Q5         VCC N10853 N05928 BC547B 
Q_Q6         VCC N05566 N05198 BC547B 
Q_Q7         0 N10853 N05566 BC557B 
Q_Q8         0 N05928 N05198 BC557B 
.PARAM  volume=0.5
